US07470705B2
(2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-hydroxy-ethyl ester
Stir a mixture of (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-benzyloxy-ethyl ester (69 mg, 94 μmol) and Pd/C 10% (7 mg) in MeOH (1 mL) under a hydrogen atmosphere for 1 h. Filter the mixture over a pad of Celite®. Wash the solids with dichloromethane. Concentrate the filtrate and purified by silica gel chromatography (elution with hexane/ethyl acetate) to afford the title compound (45 mg, 75%). MS (ES+): 642 (M+H).

reactant | (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-benzyloxy-ethyl ester | 94 μmol, 69 mg | C(C1=CC=CC=C1)OCCOC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C32H30F9N7O3
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | 7 mg | [Pd] | Pd
product | (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-hydroxy-ethyl ester | 45 mg, 75% | OCCOC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H24F9N7O3
